US04125614
3-Ethyl-2-ethylimino-4-(4-chloro-3-dimethylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
10 g of 3-ethyl-2-ethylimino-4-(4-chloro-3-dimethylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide were reacted according to Example 2(c) and the yellow precipitate of 3-ethyl-2-ethylimino-4-(4-chloro-3-dimethylsulfamoylphenyl)-1,3-thiazolidine-4-ol was rapidly filtered off. The compound so obtained was treated according to Example 3(c) with ethanolic hydrochloric acid and the end product was precipitated by adding diisopropyl ether. The solvent was decanted, 200 ml of water were added to the amorphous residue and the aqueous solution was lyophilized. Colorless amorphous solid body, decomposition beginning at 134° C., γ C=N 1615 cm-1.

reactant | 3-ethyl-2-ethylimino-4-(4-chloro-3-dimethylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide | 10 g | Br.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)=NCC
reactant | hydrochloric acid | Cl | ClH
product | 3-Ethyl-2-ethylimino-4-(4-chloro-3-dimethylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)=NCC | InChI=1S/C15H22ClN3O3S2.ClH/c1-5-17-14-19(6-2)15(20,10-23-14)11-7-8-12(16)13(9-11)24(21,22)18(3)4;/h7-9,20H,5-6,10H2,1-4H3;1H
